### PR TITLE
[Merged by Bors] - feat: simple reflections, words, lifting in Coxeter groups

### PR DESCRIPTION
**Pull request by trivial1711**
Prove basic properties of simple reflections in a Coxeter group. Add definitions `CoxeterSystem.lift`, and `CoxeterSystem.wordProd` to `GroupTheory.Coxeter.Basic` and prove their basic properties.

---

- [x] depends on: #11493
- [x] depends on: #11804
- [x] depends on: #11836
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by trivial1711** [comment]
Hello, I'm currently working on simplifying the proofs and improving the API.

**Comment by trivial1711** [comment]
Hello, I'm done simplifying the proofs. The PR is dependent on #11493 now, though.

File: Mathlib/GroupTheory/Coxeter/Basic.lean [hunk 1]
```diff
@@ -455,9 +495,219 @@ def H₄ : Matrix (Fin 4) (Fin 4) ℕ :=
...
+local prefix:100 "π" => cs.wordProd
+
+@[simp] theorem wordProd_nil :
+    π [] = 1 := by simp [wordProd]
+
+@[simp] theorem wordProd_cons (i : B) (ω : List B) :
+    π (i :: ω) = s i * π ω := by simp [wordProd]
+
+theorem wordProd_singleton (i : B) :
+    π ([i]) = s i := by simp [wordProd]
```
[the remark this answers is not in the document]
Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Basic.lean]: I put it all on one line, but I didn't add the "simp" because `π [i]` unfolds to `π (i :: nil)`, which is not in simp-normal form because of `wordProd_cons`

File: Mathlib/GroupTheory/Coxeter/Basic.lean [hunk 2]
```diff
@@ -455,9 +495,219 @@ def H₄ : Matrix (Fin 4) (Fin 4) ℕ :=
...
+/-- If two homomorphisms with domain `W` agree on all simple reflections, then they are equal. -/
+theorem ext_simple {G : Type*} [Monoid G] {φ₁ φ₂ : W →* G} (h : ∀ i : B, φ₁ (s i) = φ₂ (s i)) :
+    φ₁ = φ₂ := by
+  apply MonoidHom.eq_of_eqOn_denseM (cs.submonoid_closure_range_simple)
+  rintro x ⟨i, rfl⟩
+  exact h i
+
+/-! ### Words -/
+/-- The product of the simple reflections of `W` corresponding to the indices in `ω`.-/
+def wordProd (ω : List B) : W := prod (map cs.simpleReflection ω)
```
[the remark this answers is not in the document]
Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Basic.lean:666]: Yes, this is an essential definition, especially when we start talking about the length of an element.

**Comment by trivial1711** [comment]
I realized while revising this pull request that I had left two different ways to get simple reflections of a Coxeter system: the `FunLike` instance and the function `simpleReflection`. I slightly modified the code so everything is written in terms of the `simpleReflection` function and there is no `FunLike` instance, because I don't think that the `FunLike` instance is very intuitive.

File: Mathlib/GroupTheory/Coxeter/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,695 @@
...
+
+@[simp] theorem wordProd_nil : π [] = 1 := by simp [wordProd]
+
+@[simp] theorem wordProd_cons (i : B) (ω : List B) : π (i :: ω) = s i * π ω := by simp [wordProd]
+
+theorem wordProd_singleton (i : B) : π ([i]) = s i := by simp [wordProd]
+
+theorem wordProd_concat (i : B) (ω : List B) : π (ω.concat i) = π ω * s i := by simp [wordProd]
+
+@[simp] theorem wordProd_append (ω ω' : List B) : π (ω ++ ω') = π ω * π ω' := by simp [wordProd]
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Coxeter/Basic.lean:679]: This lemma is not "affine": There are variables (namely `cs`) with more occurrences on the RHS than on the RHS. This means that if `cs` is simplifiable then you could hit exponential blowup:
`π (a ++ b ++ c ++ d ++ e) → π a * π b * π c * π d * π e → simplified π a * simplified π b * simplified π c * simplified π d * simplified π e`.

It is therefore advisable for this not to be a simp lemma.

File: Mathlib/GroupTheory/Coxeter/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,695 @@
...
+/-! ### Words -/
+
+/-- The product of the simple reflections of `W` corresponding to the indices in `ω`.-/
+def wordProd (ω : List B) : W := prod (map cs.simpleReflection ω)
+
+local prefix:100 "π" => cs.wordProd
+
+@[simp] theorem wordProd_nil : π [] = 1 := by simp [wordProd]
+
+@[simp] theorem wordProd_cons (i : B) (ω : List B) : π (i :: ω) = s i * π ω := by simp [wordProd]
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Coxeter/Basic.lean:673]: Similarly, this lemma is not affine and should probably not be simp

File: Mathlib/GroupTheory/Coxeter/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,695 @@
...
+
+theorem wordProd_singleton (i : B) : π ([i]) = s i := by simp [wordProd]
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Coxeter/Basic.lean:675]: In return, this one gets to be affine
```suggestion
@[simp] theorem wordProd_singleton (i : B) : π [i] = s i := by simp [wordProd]
```

**Review by YaelDillies — COMMENTED** [review]
Could you do the file rename in a preliminary PR? You seem to have confused git since the diff here doesn't show the rename.

**Comment by trivial1711** [comment]
Thanks for the feedback, I'll take care of this tomorrow.

**Review by YaelDillies — COMMENTED** [review]
So why exactly did you remove the `FunLike` instance? This seems strictly less ergonomic than before, but we can't see it because you used local notation for `cs.simpleReflection`. Regardless of whether it's a good idea or not, this change should definitely be in your PR description somewhere.

File: Mathlib/GroupTheory/Coxeter/Basic.lean [hunk 6]
```diff
@@ -95,8 +126,14 @@ variable (M : Matrix B B ℕ)
...
-  diagonal : ∀ b : B, M b b  = 1 := by aesop
-  off_diagonal : ∀ b₁ b₂ : B, b₁ ≠ b₂ → M b₁ b₂ ≠ 1 := by aesop
+  diagonal : ∀ i : B, M i i  = 1 := by aesop
+  off_diagonal : ∀ i i' : B, i ≠ i' → M i i' ≠ 1 := by aesop
+
+theorem Matrix.reindex_isCoxeter {B B' : Type*} (M : Matrix B B ℕ)
+    (e : B ≃ B') (hM : M.IsCoxeter) : (Matrix.reindex e e M).IsCoxeter where
+  symmetric := by dsimp only [Matrix.IsSymm]; rw [Matrix.transpose_reindex, hM.symmetric]
+  diagonal := by intro b; dsimp [Matrix.reindex]; exact hM.diagonal (e.symm b)
+  off_diagonal := by intro i i' hii'; dsimp [Matrix.reindex]; apply hM.off_diagonal; aesop
```
[the remark this answers is not in the document]
Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Basic.lean]: Yes, many things would benefit from being renamed. In fact, I am just going to go ahead and do it.

**Comment by trivial1711** [comment]
I realized today that the names of a lot of the theorems in the original file `GroupTheory.Coxeter.Basic` should be changed, so I went ahead and did it. I changed the PR description to describe exactly what I changed.

**Comment by trivial1711** [comment]
I am going to split this into two pull requests to make it easier to review.

File: Mathlib/GroupTheory/Coxeter/Basic.lean [hunk 7]
```diff
@@ -166,4 +186,179 @@ theorem _root_.CoxeterMatrix.toCoxeterSystem_simple (M : CoxeterMatrix B) :
...
+    ((MulEquiv.symm cs.mulEquiv) a) = a := calc
+  _ = cs.mulEquiv ((MulEquiv.symm cs.mulEquiv) a) := by rfl
+  _ = _                                           := by rw [MulEquiv.apply_symm_apply]
+
+theorem lift_apply_simple {G : Type*} [Monoid G] {f : B → G} (hf : IsLiftable M f) (i : B) :
+    cs.lift hf (s i) = f i := by
+  dsimp only [simple, lift, groupLift, MonoidHom.comp_apply]
+  rw [← MonoidHom.toFun_eq_coe, toMonoidHom_apply_symm_apply]
+  simp
+  rfl
```
Comment (ocfnash) [inline Mathlib/GroupTheory/Coxeter/Basic.lean:314]: There's a stronger statement available here, right:
```suggestion
private theorem toMonoidHom_apply_symm_apply (a : PresentedGroup (M.relationsSet)) :
    (MulEquiv.toMonoidHom cs.mulEquiv : W →* PresentedGroup (M.relationsSet))
    ((MulEquiv.symm cs.mulEquiv) a) = a := calc
  _ = cs.mulEquiv ((MulEquiv.symm cs.mulEquiv) a) := by rfl
  _ = _                                           := by rw [MulEquiv.apply_symm_apply]

/-- Given a Coxeter group `W` together with a Coxeter system with matrix `M`, indexed by `B`, then
for any monoid `G`, `M`-liftable maps `B → G` are equivalent to monoid homs `W →* G`. -/
def liftEquiv {G : Type*} [Monoid G] : {f : B → G | IsLiftable M f} ≃ (W →* G) where
  toFun f := MonoidHom.comp (Units.coeHom G) (cs.groupLift
    (show ∀ i i', ((restrictUnit f.property) i * (restrictUnit f.property) i') ^ M i i' = 1 from
      fun i i' ↦ Units.ext (f.property i i')))
  invFun f := ⟨f ∘ cs.simple, fun i i' ↦ by
    rw [comp_apply, comp_apply, ← map_mul, ← map_pow, simple_mul_simple_pow, map_one]⟩
  left_inv f := by
    ext i
    simp only [MonoidHom.comp_apply, comp_apply, mem_setOf_eq, groupLift, simple]
    rw [← MonoidHom.toFun_eq_coe, toMonoidHom_apply_symm_apply, PresentedGroup.toGroup.of,
      OneHom.toFun_eq_coe, MonoidHom.toOneHom_coe, Units.coeHom_apply]
    rfl
  right_inv f := by
    -- Some work to do here
    sorry
```
Unfortunately I have very little time now so I cannot do more than leave this brief comment.

File: Mathlib/GroupTheory/Coxeter/Basic.lean [hunk 8]
```diff
@@ -166,4 +186,179 @@ theorem _root_.CoxeterMatrix.toCoxeterSystem_simple (M : CoxeterMatrix B) :
...
+
+/-! ### Homomorphisms from a Coxeter group -/
+
+/-- The proposition that the values of the function `f : B → G` satisfy the Coxeter relations
+corresponding to the matrix `M`. -/
+def _root_.CoxeterMatrix.IsLiftable {G : Type*} [Monoid G] (M : CoxeterMatrix B) (f : B → G) :
+    Prop := ∀ i i', (f i * f i') ^ M i i' = 1
+
+private theorem relations_liftable {G : Type*} [Group G] {f : B → G} (hf : IsLiftable M f)
+  (r : FreeGroup B) (hr : r ∈ M.relationsSet) : (FreeGroup.lift f) r = 1 := by
```
Comment (joelriou) [inline Mathlib/GroupTheory/Coxeter/Basic.lean:281]:
```suggestion
    (r : FreeGroup B) (hr : r ∈ M.relationsSet) : (FreeGroup.lift f) r = 1 := by
```

File: Mathlib/GroupTheory/Coxeter/Basic.lean (hunk 7 above)
Comment (ocfnash) [reply Mathlib/GroupTheory/Coxeter/Basic.lean:314]: There's no need to have both `lift` and `liftEquiv` though, right? I mean it's just another syntactic stumbling block for a future `rw` if we have both isn't it?

Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Basic.lean:314]: How about I make it an isomorphism but still call it `lift`?

File: Mathlib/GroupTheory/Coxeter/Basic.lean [hunk 9]
```diff
@@ -293,30 +298,37 @@ private def restrictUnit {G : Type*} [Monoid G] {f : B → G} (hf : IsLiftable M
...
+  right_inv ι := by
+    apply cs.ext_simple
+    intro i
+    dsimp only
+    rw [groupLift, simple, MonoidHom.comp_apply, MonoidHom.comp_apply, toMonoidHom_apply_symm_apply,
+      PresentedGroup.toGroup.of, CoxeterSystem.restrictUnit, Units.coeHom_apply]
+    rfl
+
+theorem lift_apply_simple {G : Type*} [Monoid G] {f : B → G} (hf : IsLiftable M f) :
+    ∀ i, cs.lift ⟨f, hf⟩ (s i) = f i := congrFun (congrArg Subtype.val (cs.lift.left_inv ⟨f, hf⟩))
```
Comment (joelriou) [inline Mathlib/GroupTheory/Coxeter/Basic.lean:331]: The convention in mathlib is to put the variable `i` at the left of `:`, unless there are very good reasons not to do so. Then, why not making this a `simp` lemma?

Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Basic.lean]: Thanks, I've changed it.

**Comment by joelriou** [comment]
Thanks!

bors merge
